### PR TITLE
WriteChannel step_implies_lowproj_steps proof

### PR DESCRIPTION
**Pull request by aferr**
# Checklist

- [ ] Pull request affects core Oak functionality (e.g. runtime, SDK, ABI)
  - [ ] I have written tests that cover the code changes.
  - [ ] I have checked that these tests are run by
        [Cloudbuild](/cloudbuild.yaml)
  - [ ] I have updated [documentation](/docs/) accordingly.
  - [ ] I have raised an [issue](https://github.com/project-oak/oak/issues) to
        cover any TODOs and/or unfinished work.
- [ ] Pull request includes prototype/experimental work that is under
      construction.

### CODE REVIEW

File: experimental/ni_coq/vfiles/NIUtilTheorems.v [hunk 1]
```diff
@@ -127,6 +127,24 @@ Theorem uncons_proj_chan_s: forall ell s han ch,
...
+    ((chans s).[? han] = Some ch) ->
+    ((chans (state_low_proj ell s)).[? han] = Some (chan_low_proj ell ch)).
+Proof.
+Admitted.
+
+Theorem state_hidx_to_proj_state_hidx: forall ell s h ch,
+    ((chans s).[? h] = Some ch) ->
+    ((chans (state_low_proj ell s)).[? h] = Some (chan_low_proj ell ch)).
+Proof.
+Admitted.
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/NIUtilTheorems.v:146]: Maybe I'm missing something, but these two theorems look exactly the same to me (except that one calls the handle `han` and the other `h`).

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 2]
```diff
@@ -90,6 +90,81 @@ Theorem step_implies_lowproj_steps_leq: forall ell s1 s1' e1,
...
+                remember (chan_append ch2 msg) as ch2'.
+                remember (state_low_proj ell s1) as s2.
+                remember (state_upd_chan han ch2' (state_upd_node id n' s2)) as s2'.
+                remember (s_set_call s2' id c') as s2''.
+                exists s2'', (n ---> msg); repeat try split.
+                assert (Hnproj: n = (node_low_proj ell n)) by
+                    repeat (eapply flows_node_proj || symmetry|| congruence ).
+                assert (Hn_idx_s1proj: (nodes (state_low_proj ell s1)).[? id]
+                    = Some (node_low_proj ell n)) by
+                    (eapply state_nidx_to_proj_state_idx; auto).
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:114]:
```suggestion
               pose proof (state_nidx_to_proj_state_idx ell s1 id n ltac:(auto)) as Hn_idx_s1proj.
```
Depending on whether the context makes this ambiguous (i.e. if there's more than one hypothesis matching `(nodes _).[? _] = Some _`), you could also probably infer the arguments with
```coq
               pose proof (state_nidx_to_proj_state_idx ell _ _ _ ltac:(eauto)) as Hn_idx_s1proj.
```

**Review by jadephilipoom — APPROVED** [review]
LGTM!

File: experimental/ni_coq/vfiles/NIUtilTheorems.v (hunk 1 above)
Comment (aferr) [reply experimental/ni_coq/vfiles/NIUtilTheorems.v]: You're right. They are the same. I might have made the same theorem twice under two different names in two different branches. It's fixed now. Thanks for paying close attention :)
